US09422292B2
To a stirred refluxing solution of N1-(4-chlorophenyl)benzene-1,2-diamine (100.0 mg, 0.46 mmol) in toluene (20 mL) was added dropwise a solution of malonyl dichloride (65.00 mg, 0.46 mmol). After addition was completed, the reaction mixture was refluxed for 1 h. The solvent was removed in vacuo, the mixture was stirred with water (20 mL), extracted with DCM (10 mL*3), and then was purified by Prep-TLC (DCM:MeOH=30:1) to give 1-(4-chlorophenyl)-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione (80.00 mg, 60%) as a white solid. LRMS (M+H+) m/z: calcd 286.05. found 286.

reactant | N1-(4-chlorophenyl)benzene-1,2-diamine | 0.46 mmol, 100.0 mg | ClC1=CC=C(C=C1)NC=1C(=CC=CC1)N | C12H11ClN2
reactant | malonyl dichloride | 0.46 mmol, 65.00 mg | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chlorophenyl)-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione | 80.00 mg, 60% | ClC1=CC=C(C=C1)N1C2=C(NC(CC1=O)=O)C=CC=C2 | C15H11ClN2O2
